US05763437
To a solution of (3RS)-3-amino-2,3-dihydro-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one (1.972 g) in dichloromethane (15 ml) was added dropwise a solution of m-tolyl isocyanate (0.884 g) in dichlromethane (5 ml) under stirring. After completion of the addition, the mixture was stirred for 4 hours at ambient temperature. The resultant white precipitates were collected by suction to give N-[(3RS)-2,3-dihydro-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea as a colorless crystalline solid (1.533 g). The filtrate was concentrated in vacuo. The residue was treated with chloroform and isopropyl ether to recover the desired compound (0.897 g).

reactant | (3RS)-3-amino-2,3-dihydro-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-1H-1,4-benzodiazepin-2-one | 1.972 g | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC(=O)OCC)=O | C19H18FN3O3
reactant | m-tolyl isocyanate | 0.884 g | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-[(3RS)-2,3-dihydro-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea | 1.533 g | C(C)OC(=O)CN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)NC2=CC(=CC=C2)C)=O | C27H25FN4O4
